US04971982
0.7 g of methanesulphonyl chloride was added to a stirred solution of 2.3 g of 5-benzyloxy-2-[3-(4-cyanophenoxy)-2-hydroxy -3-methylbutyl]pyridine N-oxide and 1 ml of 2,6-lutidine in 10 ml of dichloromethane. The mixture was stirred for 4.5 hours and then a further 1 ml of 2,6-lutidine and 0.7 g of methanesulphonyl chloride were added. After 2.5 hours a further 1 ml of 2,6-lutidine and 0.7 g of methanesulphonyl chloride were added and the mixture was stirred for 16 hours. The mixture was then diluted with 50 ml of dichloromethane and washed in succession with 2M hydrochloric acid, water and 10% sodium bicarbonate solution The organic solution was evaporated and the residue was chromatographed on silica gel using diethyl ether/methanol (9:1) for the elution to give 0.89 g of 5-benzyloxy-2-[3-(4-cyanophenoxy)-3-methyl-2-(methylsulphonyloxy)butyl]pyridine N-oxide in the form of a cream solid of melting point 142° C. after recrystallization from ethyl acetate.

reactant | methanesulphonyl chloride | 0.7 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-benzyloxy-2-[3-(4-cyanophenoxy)-2-hydroxy -3-methylbutyl]pyridine N-oxide | 2.3 g | C(C1=CC=CC=C1)OC=1C=CC(=[N+](C1)[O-])CC(C(C)(C)OC1=CC=C(C=C1)C#N)O | C24H24N2O4
reactant | 2,6-lutidine | 1 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | 2,6-lutidine | 1 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | methanesulphonyl chloride | 0.7 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2,6-lutidine | 1 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | methanesulphonyl chloride | 0.7 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 5-benzyloxy-2-[3-(4-cyanophenoxy)-3-methyl-2-(methylsulphonyloxy)butyl]pyridine N-oxide | 0.89 g | C(C1=CC=CC=C1)OC=1C=CC(=[N+](C1)[O-])CC(C(C)(C)OC1=CC=C(C=C1)C#N)OS(=O)(=O)C | C25H26N2O6S
